US04315939
Using the method described in Example V, 35 g of 2-carboethoxy-3-hydroxy-4-butyl-5-methyl-pyrrole, 32 g of epibromohydrin and 41 g of dry potassium carbonate in 100 ml of N,N-dimethylformamide, when heated at 50° C. for 8 hours, give 41 g of 1-(2-carboethoxy-4-butyl-5-methyl-pyrrol-3-oxy)-2,3-epoxypropane, of melting point 125°-127° C.

reactant | 2-carboethoxy-3-hydroxy-4-butyl-5-methyl-pyrrole | 35 g | C(=O)(OCC)C=1NC(=C(C1O)CCCC)C | C12H19NO3
reactant | epibromohydrin | 32 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 41 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-carboethoxy-4-butyl-5-methyl-pyrrol-3-oxy)-2,3-epoxypropane | 41 g | C(=O)(OCC)C=1NC(=C(C1OCC1CO1)CCCC)C | C15H23NO4
